US05166367
(S)-7-[3-[[(2,3-Dihydro-6,7-methylenedioxy-1,4-benzodioxin-2-yl)methyl]ethylamino]propoxy]-2H-1-benzopyran-2-one
(S)-7-[3-[[(2,3-Dihydro-6,7-methylenedioxy-1,4-benzodioxin-2-yl)methyl]amino]propoxy]-2H-1-benzopyran-2-one hydrochloride (0.60 g, 1.3 mmole), iodoethane (0.16 ml, 2.0 mmole) and diisopropylethylamine (2.26 ml, 13.0 mmole) were combined in 50 ml of DMF and heated at 60° C. for 2 days under a nitrogen atmosphere. The solvent was then removed in vacuum and the residue was dissolved in dichloromethane and washed with an equal volume of aqueous saturated sodium bicarbonate. The aqueous portion was back-extracted with dichloromethane and the combined organic portions were washed with water, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was chromatographed on a silica gel column using dichloromethane as eluant. The product-containing fractions were combined and concentrated in vacuum, and the residue redissolved in methanol and acidified with 4N HCl/isopropanol to pH<3 in an ice bath. The mixture was diluted with isopropanol to precipitate a white solid, which was recrystallized from methanol to give 0.25 g of the title compound as the monohydrochloride, m.p. 209° C.

reactant | (S)-7-[3-[[(2,3-Dihydro-6,7-methylenedioxy-1,4-benzodioxin-2-yl)methyl]amino]propoxy]-2H-1-benzopyran-2-one hydrochloride | 1.3 mmole, 0.60 g | Cl.C1OC2=CC3=C(O[C@H](CO3)CNCCCOC3=CC4=C(C=CC(O4)=O)C=C3)C=C2O1
reactant | iodoethane | 2.0 mmole, 0.16 ml | ICC | C2H5I
reactant | diisopropylethylamine | 13.0 mmole, 2.26 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | (S)-7-[3-[[(2,3-Dihydro-6,7-methylenedioxy-1,4-benzodioxin-2-yl)methyl]ethylamino]propoxy]-2H-1-benzopyran-2-one | 0.25 g | C1OC2=CC3=C(O[C@H](CO3)CN(CCCOC3=CC4=C(C=CC(O4)=O)C=C3)CC)C=C2O1 | C24H25NO7
